US07572809B2
b) 5-Methoxy-4-methyl-indan-1-one
A flask was charged with 3.35 g 4-chloromethyl-5-methoxy-indan-1-one, 0.5 g Pd/C, 2.4 g Et3N and 2 g CH3COONa in 50 mL MeOH, and then evacuated and filled with H2 (1.2 bar) three cycles. The mixture was shaken at r.t. for 6 h. The mixture was concentrated to give the crude product without further purification.

reactant | 4-chloromethyl-5-methoxy-indan-1-one | 3.35 g | ClCC1=C2CCC(C2=CC=C1OC)=O | C11H11ClO2
reactant | Et3N | 2.4 g | CCN(CC)CC | C6H15N
reactant | CH3COONa | 2 g | CC(=O)O[Na]
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 5-Methoxy-4-methyl-indan-1-one | COC=1C(=C2CCC(C2=CC1)=O)C | C11H12O2
